US04205170
To 80 mg of 2-(10,11-dihydro-11-oxo dibenzo[b,f]oxepin-4-yl)-propionamide in 4 ml of ethanol was added 0.3 ml of hydrazine hydrate and the mixture was refluxed with stirring for 8 hours. The solvent was distilled off to obtain pale yellow oil, to which were added 3 ml of diethylene glycol and 400 mg of sodium hydroxide, and the resulting mixture was stirred at 125° C. for 1 hour. To the mixture was added water and the resulting solution was acidified with hydrochloric acid and extracted with ethyl acetate. The organic layer was extracted with saturated sodium hydrogencarbonate solution. The aqueous layer was acidified with hydrochloric acid and extracted with ethyl acetate. The extract was washed with saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain pale yellow crystals, which were recrystallized from benzene-n-hexane, and there was obtained 37 mg of 2-(10,11-dihydro dibenzo[b,f]oxepin-4-yl)-propionic acid as pale yellow crystals having a melting point of 133°-133.5° C.

reactant | 2-(10,11-dihydro-11-oxo dibenzo[b,f]oxepin-4-yl)-propionamide | 80 mg | O=C1C2=C(OC3=C(C1)C=CC=C3)C(=CC=C2)C(C(=O)N)C | C17H15NO3
reactant | hydrazine hydrate | 0.3 ml | O.NN
reactant | sodium hydroxide | 400 mg | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | diethylene glycol | 3 ml | C(COCCO)O | C4H10O3
product | 2-(10,11-dihydro dibenzo[b,f]oxepin-4-yl)-propionic acid | 37 mg | C1=CC=C(C=2OC3=C(CCC21)C=CC=C3)C(C(=O)O)C | C17H16O3
